US04996218
2-[2-[(5-Bromopentyl)oxy]ethyl]quinoline
2-(2-Hydroxyethyl)quinoline (2.00 g), TAB (200 mg) and 1,5-dibromopentane (8 ml) were dissolved in dichloromethane (6 ml) and 50% aqueous sodium hydroxide (8 ml) added. The mixture was vigorously stirred at room temperature for 24 h, diluted with water (50 ml) and extracted with diethyl ether (2×30 ml). The organic extracts were dried, filtered and evaporated in vacuo to afford an oil, which was purified by FCC eluting with cyclohexane-ether (1:1) and ether, to give the title compound as a yellow oil (2.67 g), t.l.c. (ether) Rf 0.40.

reactant | 2-(2-Hydroxyethyl)quinoline | 2.00 g | OCCC1=NC2=CC=CC=C2C=C1 | C11H11NO
reactant | 1,5-dibromopentane | 8 ml | BrCCCCCBr | C5H10Br2
reactant | sodium hydroxide | 8 ml | [OH-].[Na+]
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 2-[2-[(5-Bromopentyl)oxy]ethyl]quinoline | 2.67 g | BrCCCCCOCCC1=NC2=CC=CC=C2C=C1 | C16H20BrNO
